US07897766B2
2-(Thiophen-2-yl)-thiazole-4-carboxylic acid(4r)-(1-azatricyclo[3.3.1.13,7]dec-4-yl)-amide dihydrochloride
Prepared from (4r)-1-azatricyclo[3.3.1.13,7]dec-4-ylamine hydrochloride and 2-(2-thienyl)-1,3-thiazole-4-carboxylic acid (Maybridge) according to methods A and C; yield 103 mg, 0.25 mmol (62%): 1H NMR (300 MHz, methanol-d4) δ 2.04-2.32 (m, 3H), 2.51 (s, 2H), 2.51 (s, 2H), 3.46-3.62 (m, 4H), 3.82 (d, J=13 Hz, 2H), 4.29 (s, 1H), 7.18 (dd, J=5, 4 Hz, 1H), 7.65 (dd, J=5, 1 Hz, 1H), 7.64 (dd, J=5, 1 Hz, 1H), 7.72 (dd, J=4, 1 Hz, 1H), 8.21 (s, 1H); MS (DCI/NH3) m/z 346 (M+H)+; Anal. C17H19N3OS2.2HCl: C, H, N.

reactant | (4r)-1-azatricyclo[3.3.1.13,7]dec-4-ylamine hydrochloride | Cl.N12CC3[C@H](C(CC(C1)C3)C2)N
reactant | 2-(2-thienyl)-1,3-thiazole-4-carboxylic acid | S1C(=CC=C1)C=1SC=C(N1)C(=O)O | C8H5NO2S2
reactant | NH3 | N | H3N
product | 2-(Thiophen-2-yl)-thiazole-4-carboxylic acid(4r)-(1-azatricyclo[3.3.1.13,7]dec-4-yl)-amide dihydrochloride | Cl.Cl.N12CC3[C@H](C(CC(C1)C3)C2)NC(=O)C=2N=C(SC2)C=2SC=CC2 | InChI=1S/C17H19N3OS2.2ClH/c21-16(13-9-23-17(18-13)14-2-1-3-22-14)19-15-11-4-10-5-12(15)8-20(6-10)7-11;;/h1-3,9-12,15H,4-8H2,(H,19,21);2*1H/t10?,11?,12?,15-;;
